US08668910B2
1d.4 Preparation of 3-(2-{2-[2-(2-methylamino-ethoxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid
Under an inert atmosphere of argon, in a round bottom flask, with magnetic stirring, 120.1 mg of 3-[2-(2-{2-[2-(2,2,2-trifluoro-acetylamino)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-propionic acid methyl ester, 1 ml of anhydrous THF and 59.8 μl of CH3I and successively introduced. The reaction medium is cooled with a ice/water bath at about 0° C., and 16.1 mg of NaH (50% pure in oil) is slowly added by small portions. After 15 min at 0° C., and 1 hr at RT, the crude reaction medium is concentrated to dryness under RP, and diluted with 0.5 ml of THF and 0.8 ml of water. At RT, 30.6 mg of LiOH is then added to the reaction medium. The crude reaction medium is kept 2 hrs at RT, 16 hrs at −20° C., and then purified by flash-chromatography on 30 g of C18-grafted silica gel (gradient of elution water:acetonitrile from 95:5 to 5:95 by volume). After concentration of fractions containing the desired product under RP, 115.3 mg of 3-(2-{2-[2-(2-methylamino-ethoxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid are obtained in the form of a yellow oil.

reactant | 3-[2-(2-{2-[2-(2,2,2-trifluoro-acetylamino)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-propionic acid methyl ester | 120.1 mg | COC(CCOCCOCCOCCOCCNC(C(F)(F)F)=O)=O | C14H24F3NO7
reactant | CH3I | 59.8 μl | CI | CH3I
reactant | NaH | 16.1 mg | [H-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-(2-{2-[2-(2-methylamino-ethoxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid | CNCCOCCOCCOCCOCCC(=O)O | C12H25NO6
